US03971791
Boiling a solution of 8.5 g of 6-nitroveratraldehyde, 4.0 g of cyclohexane-1,3-dione and 5.2 g of amidinoacetic acid ethyl ester in 150 ml of ethanol for 1 hour yields 2-amino-4-(2-nitro-4,5-dimethoxyphenyl)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester of melting point 261°C (ethanol). Yield: 52% of theory.

reactant | 6-nitroveratraldehyde | 8.5 g | [N+](=O)([O-])C1=CC(=C(C=C1C=O)OC)OC | C9H9NO5
reactant | cyclohexane-1,3-dione | 4.0 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | amidinoacetic acid ethyl ester | 5.2 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-amino-4-(2-nitro-4,5-dimethoxyphenyl)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester | Yield: 52% | C(C)OC(=O)C1=C(NC=2CCCC(C2C1C1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-])=O)N | C20H23N3O7
